US05708018
To a solution of N-indan-2-yl-propylamine (9.5 g, 54.3 mmol) in methylene chloride was added aq. Na2CO3 (150 mL, 3%) followed by propionyl chloride (7.5 mL, 86.3 mmol). The mixture was stirred at ambient temperature for 1 h. The layers were separated and the organic layer was washed with water, separated and dried (MgSO4). Evaporation of the solvent yielded 7 g (56%) of N-indan-2-yl-N-propyl-propionamide. MS m/e 231 (1, M+), 116 (100), 117 (23), 57 (11), 146 (9).

reactant | N-indan-2-yl-propylamine | 54.3 mmol, 9.5 g | C1C(CC2=CC=CC=C12)NCCC | C12H17N
reactant | Na2CO3 | 150 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | propionyl chloride | 86.3 mmol, 7.5 mL | C(CC)(=O)Cl | C3H5ClO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-indan-2-yl-N-propyl-propionamide | 7 g, 56% | C1C(CC2=CC=CC=C12)N(C(CC)=O)CCC | C15H21NO
